US04490370
To a stirred solution of 10 g (50 mM) of 2-naphthylglycine (from Preparation 1) in 100 ml of 1N sodium hydroxide were added 50 ml of tetrahydrofuran followed by 30 g (140 mM) of di-tert.-butyl carbonate. The reaction mixture was stirred at 24° C. for four hours. The product was isolated by first washing the reaction mixture three times with 50 ml portions of diethyl ether, and then the mixture was made acidic to pH 2.0 by the addition of conc. hydrochloric acid. The aqueous acid mixture was extracted several times with ethyl acetate, and the extracts were combined, washed with water, dried and the solvent was removed by evaporation under reduced pressure to provide 12.8 g (85% yield) of N-tert.-butoxycarbonyl-2-naphthylglycine.

reactant | 2-naphthylglycine | 50 mM, 10 g | C1=C(C=CC2=CC=CC=C12)NCC(=O)O | C12H11NO2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | di-tert.-butyl carbonate | 140 mM, 30 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | N-tert.-butoxycarbonyl-2-naphthylglycine | 12.8 g, 85% yield | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC2=CC=CC=C2C=C1 | C17H19NO4
